US08426590B2
Organic Preparations and Procedures International (2003); 35; 603-608 describes the procedure for synthesizing doxazosin by treating (2,3-dihydrobenzo[b][1,4]dioxin-2-yl) (piperazin-1-yl)methanone with 2-chloro-6,7-dimethoxy quinazolin-4-amine in presence of n-butanol to obtain doxazosin hydrochloride; which on further treatment with aqueous ammonia solution yields doxazosin base.

reactant | doxazosin | COC=1C=C2C(=CC1OC)N=C(N=C2N)N3CCN(CC3)C(=O)C4COC=5C=CC=CC5O4 | C23H25N5O5
reactant | (2,3-dihydrobenzo[b][1,4]dioxin-2-yl) (piperazin-1-yl)methanone | O1C2=C(OCC1C(=O)N1CCNCC1)C=CC=C2 | C13H16N2O3
reactant | 2-chloro-6,7-dimethoxy quinazolin-4-amine | ClC1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C10H10ClN3O2
solvent | n-butanol | C(CCC)O | C4H10O
product | doxazosin hydrochloride | COC1=C(C=C2C(=C1)C(=NC(=N2)N3CCN(CC3)C(=O)C4COC5=CC=CC=C5O4)N)OC.Cl | InChI=1S/C23H25N5O5.ClH/c1-30-18-11-14-15(12-19(18)31-2)25-23(26-21(14)24)28-9-7-27(8-10-28)22(29)20-13-32-16-5-3-4-6-17(16)33-20;/h3-6,11-12,20H,7-10,13H2,1-2H3,(H2,24,25,26);1H
